US05310929
Part B: Preparation of Acetoxymethyl 4-ethyl-2-propyl-1-[[2'-(tetrazol-5-yl)biphenyl-4-yl]methyl]imidazole-5-carboxylate
0.37 g of 4-ethyl-2-propyl-1-[[2'-(N-triphenylmethyl(tetrazol-5-yl))biphenyl-4-yl]methyl]imidazole-5-carboxylic acid was dissolved in 5 mL THF and 0.5 g chloromethyl acetate and 0.5 mL triethylamine were added. The resulting solution was stirred overnight. The solvent was evaporated and the residue dissolved in methanol with 0.25 mL acetic acid and stirred 8 hours with 10 g silica gel. The mixture was evaporated and the residue on the gel was flash chromatographed with MeOH/CH2Cl2 (1:9) to provide 0.124 g of the title compound.

reactant | 4-ethyl-2-propyl-1-[[2'-(N-triphenylmethyl(tetrazol-5-yl))biphenyl-4-yl]methyl]imidazole-5-carboxylic acid | 0.37 g | C(C)C=1N=C(N(C1C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC | C42H38N6O2
reactant | chloromethyl acetate | 0.5 g | C(C)(=O)OCCl | C3H5ClO2
reactant | triethylamine | 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Acetoxymethyl 4-ethyl-2-propyl-1-[[2'-(tetrazol-5-yl)biphenyl-4-yl]methyl]imidazole-5-carboxylate | 0.124 g | C(C)C=1N=C(N(C1C(=O)OCOC(C)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)CCC | C26H28N6O4
